US08614206B2
A solution of 5-(4-fluoro-8-oxabicyclo[5.1.0]octan-4-yl)-1-methyl-4-nitro-1H-pyrazole (260 mg, 1.02 mmol) in DMF/water (10 mL/1 mL) was treated with ammonium chloride (135 mg, 2.55 mmol) and sodium azide (332 mg, 5.1 mmol) and the mixture was heated at 100° C. for 48 hrs. The reaction mixture was extracted with EtOAc (100 mL) and the organic layer was washed with water (7×20 mL), washed with brine (20 mL), separated, dried over MgSO4, and concentrated under reduced pressure. Purification via silica gel column chromatography (40% EtOAc/isohexane) gave 2-azido-5-fluoro-5-(1-methyl-4-nitro-1H-pyrazol-5-yl)cycloheptanol as a white solid (145 mg, 48%). 1H NMR (400 MHz, CDCl3) δ 8.06 and 8.05 (2s, 1H), 4.08 and 4.06 (2s, 3H), 3.83 (dd, J=10.7, 8.2 Hz, 1H), 3.65-3.58 (m, 1H), 2.87-2.55 (m, 2H), 2.33-2.21 (m, 2H), 2.17-1.98 (m, 3H), 1.98-1.84 (m, 2H).

reactant | 5-(4-fluoro-8-oxabicyclo[5.1.0]octan-4-yl)-1-methyl-4-nitro-1H-pyrazole | 1.02 mmol, 260 mg | FC1(CCC2OC2CC1)C1=C(C=NN1C)[N+](=O)[O-] | C11H14FN3O3
reactant | ammonium chloride | 2.55 mmol, 135 mg | [Cl-].[NH4+]
reactant | sodium azide | 5.1 mmol, 332 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF water | 10 mL | CN(C)C=O.O
product | 2-azido-5-fluoro-5-(1-methyl-4-nitro-1H-pyrazol-5-yl)cycloheptanol | 145 mg, 48% | N(=[N+]=[N-])C1C(CCC(CC1)(C1=C(C=NN1C)[N+](=O)[O-])F)O | C11H15FN6O3
